US05763621
3-(1 -Cyclopropylcarbamoyl-2,2-dimethyl-propylcarbamoyl)-5-methyl-2-(thiophen-2-ylsulfanylmethyl)-hexanic acid
2-[1-(1 -Cyclopropylcarbamoyl-2,2-dimethyl-propylcarbamoyl)-3-methyl-butyl]-acrylic acid (4.40 g, 12.4 mmol) was dissolved in methanol (10 ml) and placed under a blanket of argon prior to addition of 2-mercaptothiophene (4.5 ml). The mixture was stirred overnight at 60° C. under argon with the exclusion of light. The solvent was removed under reduced pressure to leave an oil to which was added cold diethyl ether (200 ml). The product precipitated on standing in an ice bath and was removed by filtration and washing with thoroughly with cold diethyl ether. The product was further purified by trituration with hot ethyl acetate and column chromatography (silica gel, gradient elution, 0-20% methanol in dichloromethane). Fractions were combined and evaporated to yield the title compound as an pale yellow solid (6.95 g, including minor impurities). 1H-NMR (CDCl3, partial deuterium exchange); δ 8.10 (1H, m), 7.85 (1H, d, J=9.2 Hz), 7.35 (1H, m), 7.03 (1H, m), 6.88 (1H, m), 4.06 (1H, d, J=9.2 Hz), 2.85 (1H, m), 2.67 (2H, m), 2.51 (1H, m), 1.53 (1H, m), 1.25 (1H, m), 1.02 (1H, m), 0.87 (9H, s), 0.76 (3H, d, J=6.4 Hz), 0.71 (3 H, d,J=6.5 Hz), 0.61 (2H, m) and 0.32 (2H, m).

reactant | 2-[1-(1 -Cyclopropylcarbamoyl-2,2-dimethyl-propylcarbamoyl)-3-methyl-butyl]-acrylic acid | 12.4 mmol, 4.40 g | C1(CC1)NC(=O)C(C(C)(C)C)NC(=O)C(CC(C)C)C(C(=O)O)=C | C18H30N2O4
reactant | 2-mercaptothiophene | 4.5 ml | SC=1SC=CC1 | C4H4S2
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(1 -Cyclopropylcarbamoyl-2,2-dimethyl-propylcarbamoyl)-5-methyl-2-(thiophen-2-ylsulfanylmethyl)-hexanic acid | 6.95 g | C1(CC1)NC(=O)C(C(C)(C)C)NC(=O)C(C(C(=O)O)CSC=1SC=CC1)CC(C)C | C22H34N2O4S2
